US08937178B2
A −78° C. solution of 2-bromo-5-methoxybenzoic acid (26.0 g, 112.5 mmol) in THF (100 mL) was treated with n-BuLi (1.6 M in hexane) (140 mL, 225 mmol) and stirred at −78° C. for 1 h. 3-fluoro-N-methoxy-N-methylbenzamide (15.3 g, 83.8 mmol) in THF (40 mL) was added dropwise then warmed to rt for 16 h. The reaction mixture was diluted with water (100 mL), acidified with 5N HCl (25 mL) and extracted with EtOAc (3×200 mL). The organic layer was washed with brine, dried over Na2SO4, and concentrated to obtain 2-(3-fluorobenzoyl)-5-methoxybenzoic acid (21.0 g, 68%) (274.83 [M+H]); 1H NMR: (400 MHz, DMSO) δ: 3.89 (s, 3H), 7.26-7.29 (m, 1H), 7.37-7.45 (m, 4H), 7.50-7.55 (m, 2H).

reactant | 2-bromo-5-methoxybenzoic acid | 112.5 mmol, 26.0 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-BuLi | 225 mmol, 1.6 M, 140 mL | [Li]CCCC
reactant | 3-fluoro-N-methoxy-N-methylbenzamide | 83.8 mmol, 15.3 g | FC=1C=C(C(=O)N(C)OC)C=CC1 | C9H10FNO2
reactant | HCl | 5N, 25 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 2-(3-fluorobenzoyl)-5-methoxybenzoic acid | 21.0 g, 68% | FC=1C=C(C(=O)C2=C(C(=O)O)C=C(C=C2)OC)C=CC1 | C15H11FO4
